US05525742
Step A-4. To a stirred solution of 3-azido-5-iodophenylcarbamic acid, 1,1-dimethylethyl ester (A-3, 4.03 g, 11.2 mmol) in dichloromethane (13 mL) is added trifluoroacetic acid (13 mL). The reaction mixture is stirred at 20°-25° C. for 30 minutes and then carefully poured into a stirred mixture of saturated aqueous bicarbonate (300 mL) and dichloromethane (300 mL). The phases are separated and the organics are dried (MgSO4), filtered and concentrated. The residue is purified by medium pressure liquid chromatography using 20% ethyl acetate in hexane as the eluent to afford 2.43 g of 3-azido-5-iodoaniline (A-4) which is used immediately in the next reaction, CHART B, Step B-1. A small analytical sample is recrystallized from ethyl acetate in hexane. Mp=89°-91° C. IR (mull) 3402, 3299, 2954, 2925, 2869, 2135, 2119, 1596, 1581, 1572, 1570, 1463, 1149, 1304, 1246, 987, 842, 826 cm-1 ; 1H NMR (CDCl3) δ6.79 (t, 1 H, J=2 Hz), 6.75 (t, 1 H, J=3 Hz), 6.23 (t, 1 H, J=2 Hz), 3.75 (bs, 2 H); 13C NMR(CDCl3) δ148.5, 141.9, 120.3, 117.7, 104.6, 94.9; Mass Spec (70eV, EI) m/z 260 (parent), 232, 205, 165, 127, 116, 105 (base), 78, 66, 541, 37; Exact mass calculated for C6H5IN4 : 259.9561. Found: 259.9573. Analysis calculated for C6H5IN4 ; C, 27.71; H, 1.90; N, 21.55; Found C, 27.67; H, 1.90; N, 21.66.

reactant | 3-azido-5-iodophenylcarbamic acid, 1,1-dimethylethyl ester | 11.2 mmol, 4.03 g | N(=[N+]=[N-])C=1C=C(C=C(C1)I)NC(OC(C)(C)C)=O | C11H13IN4O2
reactant | trifluoroacetic acid | 13 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | bicarbonate | 300 mL | C([O-])(O)=O
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 3-azido-5-iodoaniline | 2.43 g | N(=[N+]=[N-])C=1C=C(N)C=C(C1)I | C6H5IN4
